data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3809,"C[Si](C)(C)C[C:1]#[CH:2].O=C1OC(CCl)[CH:3]=[NH+:4]1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4278,"C=CC1(O[C:1](C=C)([O-:2])[Cl:3])C(=O)N(CC2=CC=CC=C2)C2=C1C=CC=C2.[H][H].[Na+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4097,"CO[C:1](OC)=[NH2+:2].C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2709,"C1=CC=C(COC2CCC(=[O+:1][H:2])CC2)C=C1.C1CCOC1.CC(=O)[O-:3].O.OCCO|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3063,"C[N:1](C)[CH:2]=[SH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6840,"CCO.CCO[C:1](C(C)=CI)=[O:2].O=C=O.[K+].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8260,"CO[C:1](OCC[NH2:2])=[OH+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6607,"CCOC(=O)C1(C(=O)OCC)C(C)CCC(C#N)(C(OCC)=[NH:1])C1CC(C)=O.CC[OH+:2][H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9590,"C=CCC(C(C)=CC1=CSC(C)=N1)[OH+:1][Ti-:2]([OH])([O]C(C)C)([O]C(C)C)[O]C(C)C.CCC[CH2][Sn]([CH2]CCC)([CH2]CCC)[O]C(C)C|((2, 1), 1)"
train,pmechdb_split_0,0,208,"[OH][Mg-]([O+:1]=[C:2](CCl)[O:3][H:4])[OH:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7751,"C=CC(=O)[O:1][C:2](C)(NCC)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5101,"C[Si:1](C)(C)OCC[CH2][Mg][Br].[F-:2]|(2, 1)"
train,pmechdb_split_0,0,3094,"CCN1CCC23C4=C5C=CC(OC)=C4[O:1][CH:2]2[CH-:3]CCC3(O)C1C5.N#N.O.[K+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8271,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.ClC1=CC([CH:1]=[O+:2]CC[OH:3])=CC=C1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7563,"CCC(C)(N1CCCC1)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7305,"C1CC[NH:1]CC1.CC(C)(C)[S:2](Cl)=[O:3].CCN(CC)CC|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8414,"COC1=CC=C(C(C)C(OC)(OC)[OH+:1][H:2])C=C1.CS(=O)(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2828,"CCCC1CC([S-:1])=[N+]2C(C3=CC=CC=C3)COC2(C)C1.CCCOC(=O)[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2436,"C[O+:1](C(N)(O)C1=CC=CC=C1)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5653,"C[O:1][CH2:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3910,"CC=CC1CCCC(C)C1[NH:1]C.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4258,"C1=CC=[N+:1]([H:2])C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCC[NH2+]C1([O-:3])CCCC2=C(Br)C=NC=C21|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9467,"CC1=CC=C(O)C=C1.CCCCOCC1OC=C(COC(C)=[O:1])C(OCCCC)C1OCCCC.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,5493,"C[S-:1].C[S:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3191,"C[SH:1].[Cl:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8141,"CO[CH+:1]C(C)C.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,7289,"CC[N+:1](CC)=[CH:2][CH2:3][H:4].CC[NH:5]CC|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6776,"CC(=O)[O:1][H:2].O=C(O)C1CCCC[NH+]1C(CCC[N+](=O)[O-])[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10230,"CS[CH:1]=[O:2]|((1, 2), 2)"
train,pmechdb_split_0,0,10097,"OCC([O][Sn-]([Cl])([Cl])([Cl])[Cl])C1CC1[CH+:1]CCCC(O)=[O:2]|(2, 1)"
train,pmechdb_split_0,0,9179,"C[C:1](OC(=O)CCC=O)=[O:2].C[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1659,"CCC[Cl:1].[Cl][Al:2]([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,6103,"C[Si](C)(C)C=[C:1]=[CH:2]COCC[C+:3](C)C|((1, 2), 3)"
train,pmechdb_split_0,0,2375,"CC1=CC=C(S(=O)(=O)[O-])C=C1.COC(=O)N1CCC[C:1]([OH:2])=[C:3]1C1=CC=CC=C1.[H:4][OH2+:5]|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5194,"COC(=O)CCC(C(C)=C[NH2:1])[C:2](C)=[O:3].O.O=C([O-])O.[NH4+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7323,"CC(C)CC(C(=O)NCC(=O)NC(C)C(=O)O)[NH2+:1][C:2](=O)[O-:3].C[C+](C)C.O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1367,"CC(C)(C#N)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8496,"C1=CC=[N:1]C=C1.CC1=CC=C(S(=O)(=O)[O:2][CH:3](C)[CH:4](CCOP(=O)(Cl)Cl)[H:5])C=C1|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,10191,"C1CO[C:1]([OH:2])([O-:3])OC1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3085,"C=CC([O-])(OC(C)=O)[O+:1](CC)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4549,"CC(=O)[O-:1].CC1(C)C2CC3=C(CC([N+]4=CC=CC=C4)C(O)(C4=C(F)C=CC=C4)[NH+:2]3[H:3])C1C2.O.[I-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5246,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCC[OH:1].O=[N+]([O-])C1=CC=C([C:2](O)=[OH+:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2780,"CS(=O)(=O)O[Si:1](C)(C)C.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,4071,"CC(=O)[O-:1].CCOC(=O)C1=C(COC)[NH+:2]([H:3])C2(O)C=CC(O)=CC12.CCOC(C)=O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1710,"CO[P:1](Br)OC.C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4307,"CC(C(C)[O+:1](C([O-])(OC(=O)C(F)(F)F)C(F)(F)F)[H:2])[Si](C)(C)C.O=C(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7929,"CN(C)[C:1](=[CH2:2])[O-:3].C[CH2:4][Br:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4915,"O=[N+:1]=[O:2].O=[N+]([O-])C1=C[CH:3]=[CH:4]O1|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8966,"C1C[CH:1]([CH2:2][Na:3])[O:4]C1|((3, 2), 1);((1, 4), 4)"
